US05114936
To a solution consisting of 6,7-dihydro-5-dimethylaminomethyl-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one hydrochloride (2.40 g) in distilled water (24 ml) was added 1-(2-methoxyphenyl)piperazine hydrochloride (3.38 g) and potassium carbonate (1.02 g) at room temperature with stirring. The resulting reaction mixture was heated to reflux for 25 min. and allowed to cool to room temperature. Diethyl ether was then added and the layers separated. The aqueous phase was extracted twice with ether. The combined organics were washed with brine and dried (Na2SO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, ether) afforded 2.45 g of 6,7-dihydro-3-(2-fluorophenyl)-5-(4-(2-methoxyphenyl)-1-piperazinyl)methyl-1,2-benzisoxazol-4(5H)-one as a foam. The compound was flushed thru alumina with dichloromethane to give an oil. The maleate was prepared in ethanol and the resulting salt was washed with ether, m.p. 153°-155° C.

reactant | 6,7-dihydro-5-dimethylaminomethyl-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one hydrochloride | 2.40 g | Cl.CN(C)CC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 3.38 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | potassium carbonate | 1.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | water | 24 ml | O | H2O
product | 6,7-dihydro-3-(2-fluorophenyl)-5-(4-(2-methoxyphenyl)-1-piperazinyl)methyl-1,2-benzisoxazol-4(5H)-one | 2.45 g | FC1=C(C=CC=C1)C1=NOC2=C1C(C(CC2)CN2CCN(CC2)C2=C(C=CC=C2)OC)=O | C25H26FN3O3
